US08461348B2
ethyl 4-[3-(trifluoromethyl)phenyl]-1,3-thiazole-2-carboxylate
To 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone (14 g, 41 mmol) was added ethyl amino(thioxo)acetate (5.0 g, 38 mmol), and the mixture was stirred at 80° C. for 3 hr. The solvent was evaporated under reduced pressure, and the obtained crude product was purified by recrystallization (ethyl acetate) to give the title compound (5.6 g, 49%) as colorless crystals.

reactant | 2-bromo-1-[3-(trifluoromethyl)phenyl]ethanone | 41 mmol, 14 g | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | ethyl amino(thioxo)acetate | 38 mmol, 5.0 g | NC(C(=O)OCC)=S | C4H7NO2S
product | ethyl 4-[3-(trifluoromethyl)phenyl]-1,3-thiazole-2-carboxylate | 5.6 g, 49% | FC(C=1C=C(C=CC1)C=1N=C(SC1)C(=O)OCC)(F)F | C13H10F3NO2S
